US04496748
40 g (1 mole) of sodium hydroxide platelets, 182 g (1 mole) of cyclododecanone dissolved in 200 ml of toluene, and 10 g of tetrabutylammonium bromide are placed in a 500 ml three-necked flask provided with a stirrer, reflux cooler and dropping funnel. Over a period of one hour, 1 mole of allyl chloride is added dropwise, with stirring, at a reaction-mixture temperature of from 70° to 80° C. The reaction mixture is subsequently stirred for a further 5 hours at 80° C. and finally 200 ml of water are added and the phases are separated. The organic phase is then washed until neutral with a further 100 ml of water and subsequently distilled. After the low-boiling components have been drawn off, unreacted cyclododecanone is first distilled off. Finally, at 0.01 torr and from 82° to 84° C., the desired 2-(2-propenyl)-cyclododecanone is obtained as a colorless liquid in a yield of 149.8 g, corresponding to 67.5% of the theoretical yield.

reactant | sodium hydroxide | 1 mole, 40 g | [OH-].[Na+]
reactant | cyclododecanone | 1 mole, 182 g | C1(CCCCCCCCCCC1)=O | C12H22O
reactant | allyl chloride | 1 mole | C(C=C)Cl | C3H5Cl
reactant | water | 200 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 10 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(2-propenyl)-cyclododecanone | C(C=C)C1C(CCCCCCCCCC1)=O | C15H26O
